US03950528
3-Amino-1-(2-chlorobenzyl)-pyrazol-5-one ##SPC53##
35 g of β-amino--ethoxyacrylic acid ethyl ester and 32 g of 2-chlorobenzylhydrazine when reacted as described in Example 45 yield 17.5 g of the compound identified above as colorless crystals of melting point 153°. (Yield: 40% of theory)

reactant | β-amino--ethoxyacrylic acid ethyl ester | 35 g | C(C)OC(C(=CN)OCC)=O | C7H13NO3
reactant | 2-chlorobenzylhydrazine | 32 g | ClC1=C(CNN)C=CC=C1 | C7H9ClN2
product | 3-Amino-1-(2-chlorobenzyl)-pyrazol-5-one | Yield: 40% | NC=1NN(C(C1)=O)CC1=C(C=CC=C1)Cl | C10H10ClN3O
